US09402841B2
Step B: (S)-tert-butyl 3-((6-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)pyridin-2-yl)oxy)pyrrolidine-1-carboxylate
To crude (S)-tert-butyl 3-((6-cyanopyridin-2-yl)oxy)pyrrolidine-1-carboxylate (1.044 g) in NMP (1.5 mL) was added ethyl hydrazinecarboxylate (0.752 g, 7.22 mmol). The reaction mixture was heated at 175° C. overnight and was subsequently cooled and diluted with EtOAc. The organic phase was washed with saturated aqueous NH4Cl, dried, and concentrated to give the title compound, which was used without further purification.

reactant | (S)-tert-butyl 3-((6-cyanopyridin-2-yl)oxy)pyrrolidine-1-carboxylate | 1.044 g | C(#N)C1=CC=CC(=N1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C15H19N3O3
reactant | ethyl hydrazinecarboxylate | 7.22 mmol, 0.752 g | N(N)C(=O)OCC | C3H8N2O2
solvent | NMP | 1.5 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-tert-butyl 3-((6-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)pyridin-2-yl)oxy)pyrrolidine-1-carboxylate | O=C1NC(=NN1)C1=CC=CC(=N1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C16H21N5O4
